* ---------------------------------------------------------------------------
* behavioral.lib -- behavioural models for the FM radio analog front end
*
* These are *system-level* models: they capture gain, impedance, bandwidth,
* noise and (where noted) compression.  They are not vendor SPICE models and
* they say nothing about layout, package parasitics or start-up behaviour.
* Every number that came from a datasheet is marked [DS]; every number that
* was fitted or assumed is marked [FIT] / [ASSUMED].
* ---------------------------------------------------------------------------

* --- ADL5531 : 20 dB, 50 ohm, 20 MHz - 1 GHz gain block ---------------------
* [DS] gain 20.0 dB @ 100 MHz, NF 2.6 dB, OP1dB +19.5 dBm, Zin=Zout=50
* The input match is synthesised with a VCCS so it is NOISELESS: a real 50 ohm
* shunt resistor would floor the model at NF=3.0 dB and the part does 2.6 dB.
* rnf then sets the excess noise.  vsat sets the tanh compression knee.
* Both are calibrated by tb_lna_cal.cir -- re-run it if you change av.
.subckt ADL5531 in out params: av=10 zin=50 zo=50 rnf=9.99 vsat=9.54
Gin   in    0     in 0 {1/zin}
Rn    nz    0     {rnf}
Egain n1    0     in 0 {2*av}
Enz   n2    n1    nz 0 {2*av}
Blim  n3    0     V = {vsat} * tanh( V(n2) / {vsat} )
Rout  n3    out   {zo}
.ends ADL5531

* --- ADL5531 without compression (faster, use for .ac / .noise) -------------
.subckt ADL5531_LIN in out params: av=10 zin=50 zo=50 rnf=9.99
Gin   in    0     in 0 {1/zin}
Rn    nz    0     {rnf}
Egain n1    0     in 0 {2*av}
Enz   n2    n1    nz 0 {2*av}
Rout  n2    out   {zo}
.ends ADL5531_LIN

* --- PAT1220-C-xDB : 50 ohm pi attenuator pad -------------------------------
* BOM says PAT1220-C-5DB-T5 -> 5 dB.  Override with atten=<dB> to re-pad.
* pi values: rser = Z(N-1)/(2 sqrt N), rsh = Z(sqrt N + 1)/(sqrt N - 1)
.subckt PAD in out gnd params: atten=5 z0=50
.param nn   = {pow(10, atten/10)}
.param rser = {z0*(nn-1)/(2*sqrt(nn))}
.param rsh  = {z0*(sqrt(nn)+1)/(sqrt(nn)-1)}
Rs  in  out {rser}
R1  in  gnd {rsh}
R2  out gnd {rsh}
.ends PAD

* --- WBC1-1TL : 1:1 RF transformer / balun, centre-tapped secondary ---------
* [DS] 0.4 - 300 MHz, ~1 dB insertion loss.  lm is the magnetising inductance
* that sets the low-frequency roll-off; k<1 gives the leakage/HF roll-off.
.subckt WBC1_1TL pa pb sa sc sb params: lm=50u k=0.9995 rw=0.35
Lp   pa   pi   {lm}
Rp   pi   pb   {rw}
Ls1  sa   si1  {lm/4}
Rs1  si1  sc   {rw/2}
Ls2  sc   si2  {lm/4}
Rs2  si2  sb   {rw/2}
K1 Lp Ls1 {k}
K2 Lp Ls2 {k}
K3 Ls1 Ls2 {k}
.ends WBC1_1TL

* --- LT5560 : active double-balanced mixer ----------------------------------
* [DS] LT5560f.pdf, in docs/:
*   Table 2  differential signal input Z = 28.5 + j0.8 ohm @ 70 MHz,
*            28.5 + j1.6 @ 140 MHz  -> 28.5 ohm + ~1.8 nH around 103 MHz
*   p.17     LO input ~180 ohm, needs 240 mVrms, LO power -6 to +1 dBm
*   p.1      conversion gain 2.4 dB typ
*   pins 5/6 are open collectors and need a DC path to VCC (R33/R34 here)
*
* [ASSUMED] gm is back-calculated from the 2.4 dB figure assuming the
* datasheet test circuit presents a 400 ohm differential IF load:
*   Gp = (0.6366*gm*RL)^2 * Rin/RL = 10^0.24  with RL=400, Rin=28.5
*   -> gm = 19.4 mA/V.  If you measure a different conversion gain on the
* bench, scale gm by that ratio -- tb_mixer.cir prints what the model does
* into the real 660 ohm board load.
*
* The B-source is a true time-domain multiply, so it only means anything in
* .tran.  For .ac work on the IF side use LT5560_IFSRC below.
.subckt LT5560 rfp rfn lop lon outp outn params: gm=19.4m zrf=28.5 lrf=1.8n zlo=180
Lrfp rfp  irfp {lrf/2}
Lrfn rfn  irfn {lrf/2}
Rrf  irfp irfn {zrf}
Rlo  lop  lon  {zlo}
* normalised LO switching function, +-1; tanh gain sets the edge sharpness
Blo  nsw 0   V = tanh( 20 * V(lop,lon) )
Bmix outp outn I = {gm} * V(irfp,irfn) * V(nsw)
Rop  outp 0  1G
Ron  outn 0  1G
.ends LT5560

* --- LT5560 small-signal IF-side stand-in -----------------------------------
* Ideal differential current source into the open-collector outputs.  Drive
* node "ifdrv" with 1 V to inject {gm} A of differential IF current.
.subckt LT5560_IFSRC ifdrv outp outn params: gm=19.4m
Gif outp outn ifdrv 0 {gm}
Rop outp 0 1G
Ron outn 0 1G
.ends LT5560_IFSRC

* --- LTC6362 : low power rail-to-rail differential ADC driver ---------------
* gbw / avol / slew are PARAMETERS -- check them against the datasheet
* revision you are building to and override at the .subckt call if needed.
* [ASSUMED] gbw=34meg avol=1e5 rout=8 slew=60 (V/us)
* vswing is the swing of EACH output about vocm.  On a 5 V rail with
* VOCM = 1.25 V the negative side runs out first, so +-1.2 V per output
* (+-2.4 V differential) is the realistic headroom -- just under the
* MCP33131 +-Vref = +-2.5 V full scale.  Set vswing=1e6 to disable.
.subckt LTC6362 inp inn vocm outp outn params: gbw=34meg avol=1e5 rout=8 gm=1m vswing=1.2
.param rp = {avol/gm}
.param cp = {gm/(2*3.14159265*gbw)}
Rinp  inp 0 1G
Rinn  inn 0 1G
Gm    0   int inp inn {gm}
Rpole int 0   {rp}
Cpole int 0   {cp}
Blim  lim 0   V = {2*vswing} * tanh( V(int) / {2*vswing} )
* differential output around the commanded common mode
Eop   op  0   VALUE = { V(vocm) + 0.5*V(lim) }
Eon   on  0   VALUE = { V(vocm) - 0.5*V(lim) }
Rop   op  outp {rout}
Ron   on  outn {rout}
.ends LTC6362

* --- MCP33131 : 16-bit 1 Msps SAR, differential input -----------------------
* Sampling-capacitor + on-resistance load only.  No conversion is modelled.
.subckt MCP33131 ainp ainn params: csamp=45p ron=40
Rp ainp np {ron}
Rn ainn nn {ron}
Cs np  nn {csamp}
Cpp np 0 3p
Cpn nn 0 3p
.ends MCP33131
